US07417056B2
5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2,6-dimethylquinoline
Analogously to Example 1, 4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal is converted with 5-amino-2,6-dimethylquinoline into 5-[4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-2,6-dimethylquinoline, which is reduced with sodium cyanoborohydride to the product.

reactant | 4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | FC=1C=C(C2=C(CCO2)C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H16F4O3
reactant | 5-amino-2,6-dimethylquinoline | NC1=C2C=CC(=NC2=CC=C1C)C | C11H12N2
reactant | 5-[4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-2,6-dimethylquinoline | FC=1C=C(C2=C(CCO2)C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1C)C)(C(F)(F)F)O)(C)C | C26H26F4N2O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2,6-dimethylquinoline | FC=1C=C(C2=C(CCO2)C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1C)C)(C(F)(F)F)O)(C)C | C26H28F4N2O2
